US07687502B2
Benzothiazol-2-yl-[6-(4-methyl-4H-[1,2,4]-triazol-3-yl-sulfanyl)-quinazolin-4-yl]-amine
The compound of Example 15 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, 2-amino-benzothiazole and 3-mercapto-4-methyl-1,2,4-triazole.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 2-amino-benzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 3-mercapto-4-methyl-1,2,4-triazole | SC1=NN=CN1C | C3H5N3S
product | Benzothiazol-2-yl-[6-(4-methyl-4H-[1,2,4]-triazol-3-yl-sulfanyl)-quinazolin-4-yl]-amine | S1C(=NC2=C1C=CC=C2)NC2=NC=NC1=CC=C(C=C21)SC2=NN=CN2C | C18H13N7S2
